### PR TITLE
Add Erdős Problem 179 (short progressions forcing long progressions), link the formal proof

### LINKED ISSUE #6299: Erdős Problem 179
### What is the Erdős problem?

https://www.erdosproblems.com/179

Let $1\leq k<\ell$ be integers and define $F_k(N,\ell)$ to be minimal such that every set $A\subset \mathbb{N}$ of size $N$ which contains at least $F_k(N,\ell)$ many $k$-term arithmetic progressions must contain an $\ell$-term arithmetic progression. Is it true that $F_3(N,4)=o(N^2)$? Is it true that for every $\ell>3$, $\lim_{N\to \infty}\frac{\log F_3(N,\ell)}{\log N}=2$?

Status: proved (Fox–Pohoata). A formal proof exists in plby/lean-proofs (`Erdos179.erdos_179`, Codex and GPT-5.6 Sol), which includes a formalisation of the Balog–Szemerédi–Gowers theorem and of Szemerédi's theorem for 4-term progressions.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6299.

### What changed
Adds `FormalConjectures/ErdosProblems/179.lean` with `apCount k A` (number of nontrivial `k`-term progressions in `A`), `HasAP ℓ A`, `F k N ℓ` (the least threshold, via `sInf`) and:
- `erdos_179.parts.i` (`research solved`, `answer(True)`): `F 3 N 4 = o(N²)`.
- `erdos_179.parts.ii` (`answer(True)`): `log F 3 N ℓ / log N → 2` for every `ℓ > 3`.
- `erdos_179.variants.fox_pohoata`: the quantitative bound `F_k(N,ℓ) ≤ N² / (log log N)^{C_ℓ}` [FoPo20].

The two parts are linked to plby/lean-proofs `Erdos179.erdos_179` (Codex and GPT-5.6 Sol; 38 Mathlib-only files, including a vendored Balog–Szemerédi–Gowers theorem and a finitary Szemerédi theorem for `4`-term progressions).

### How checked
- Rebuilt all of plby's files against this repo's Mathlib: `#print axioms Erdos179.erdos_179` → `[propext, Classical.choice, Quot.sound]`. (The vendored `AddCombi.BSG` module is imported under its path inside `Erdos179/`.)
- Bridge compiled against both statements on top of a renamed copy, same axioms (plby's `F` is a `Nat.find`; progressions are coded by their first two terms):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge179

lemma apCount_eq (k : ℕ) (A : Finset ℕ) (hk : 2 ≤ k) :
    Erdos179.apCount k A = Erdos179Plby.apCount k A := by
  classical
  obtain ⟨j, rfl⟩ : ∃ j, k = j + 2 := ⟨k - 2, by omega⟩
  simp only [Erdos179.apCount, Erdos179Plby.apCount, Erdos179Plby.apPairs]
  congr 1
  apply Finset.filter_congr
  intro p _
  simp only [Erdos179Plby.IsAPPair, Finset.mem_range]

lemma hasAP_iff (ℓ : ℕ) (A : Finset ℕ) (hℓ : 2 ≤ ℓ) :
    Erdos179.HasAP ℓ A ↔ Erdos179Plby.HasAP ℓ A := by
  classical
  obtain ⟨j, rfl⟩ : ∃ j, ℓ = j + 2 := ⟨ℓ - 2, by omega⟩
  simp only [Erdos179.HasAP, Erdos179Plby.HasAP, Finset.Nonempty, Prod.exists,
    Erdos179Plby.mem_apPairs]
  constructor
  · rintro ⟨a, d, hd, h⟩
    refine ⟨a, a + d, by simpa using h 0 (by omega), by simpa using h 1 (by omega), by omega,
      fun i hi => ?_⟩
    have := h i hi
    rwa [show a + d - a = d by omega]
  · rintro ⟨a, b, ha, hb, hab, h⟩
    refine ⟨a, b - a, by omega, fun i hi => h i hi⟩

lemma F_eq (k N ℓ : ℕ) (hk : 2 ≤ k) (hℓ : 2 ≤ ℓ) : Erdos179.F k N ℓ = Erdos179Plby.F k N ℓ := by
  unfold Erdos179.F
  have hset : {m | ∀ A : Finset ℕ, A.card = N → m ≤ Erdos179.apCount k A → Erdos179.HasAP ℓ A} =
      {m | Erdos179Plby.ForcesLongAP k N ℓ m} := by
    ext m
    simp only [Set.mem_ofPred_eq, Erdos179Plby.ForcesLongAP, apCount_eq k _ hk, hasAP_iff ℓ _ hℓ]
  rw [hset]
  apply le_antisymm
  · exact csInf_le ⟨0, fun m _ => Nat.zero_le m⟩ (Erdos179Plby.F_spec k N ℓ)
  · exact le_csInf ⟨_, Erdos179Plby.F_spec k N ℓ⟩ fun m hm => Erdos179Plby.F_minimal hm

theorem erdos_179_i_bridge : type_of% Erdos179.erdos_179.parts.i := by
  show True ↔ _
  simp only [true_iff, F_eq 3 _ 4 (by norm_num) (by norm_num)]
  exact Erdos179Plby.erdos_179.1

theorem erdos_179_ii_bridge : type_of% Erdos179.erdos_179.parts.ii := by
  show True ↔ _
  simp only [true_iff]
  intro ℓ hℓ
  simp only [F_eq 3 _ ℓ (by norm_num) (by omega)]
  exact Erdos179Plby.erdos_179.2 ℓ hℓ

end Bridge179
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«179»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/179.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+The number of nontrivial `k`-term arithmetic progressions in a finite set `A`, each progression
+`a, a + d, …, a + (k - 1) d` (with `d > 0`) counted once via its first two terms.
+-/
+noncomputable def apCount (k : ℕ) (A : Finset ℕ) : ℕ :=
+  ((A ×ˢ A).filter fun p : ℕ × ℕ ↦
+    p.1 < p.2 ∧ ∀ i < k, p.1 + i * (p.2 - p.1) ∈ A).card
+
+/-- `A` contains a nontrivial `ℓ`-term arithmetic progression. -/
+def HasAP (ℓ : ℕ) (A : Finset ℕ) : Prop :=
+  ∃ a d : ℕ, 0 < d ∧ ∀ i < ℓ, a + i * d ∈ A
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/179.lean:58]: `HasAP = \not IsAPOfLengthFree` from `Combinatorics/AP/Basic.lean` and `apCount` should move there
